US07888362B2
3-Hydroxyisoquinoline (170 mg, 1.17 mmol), 1-benzo[b]thiophen-4-yl-4-(3-chloropropyl)piperazine (290 mg, 1.0 mmol), and potassium carbonate (200 mg, 1.45 mmol) were added to dimethylformamide (8 ml), followed by stirring at 80° C. for 7 hours. The reaction mixture was cooled to room temperature, then water was added thereto and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure after filtration. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=9:1), and concentrated under reduced pressure. The resulting residue was dissolved in ethanol (2 ml), and 1N—HCl—ethanol solution (0.5 ml) was added thereto. Insoluble matters produced were filtered out and dried to obtain 3-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]isoquinoline hydrochloride (160 mg, yield: 37%) as white powder.

reactant | 3-Hydroxyisoquinoline | 1.17 mmol, 170 mg | OC=1N=CC2=CC=CC=C2C1 | C9H7NO
reactant | 1-benzo[b]thiophen-4-yl-4-(3-chloropropyl)piperazine | 1.0 mmol, 290 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCl | C15H19ClN2S
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]isoquinoline hydrochloride | 160 mg, yield: 37% | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC=2N=CC1=CC=CC=C1C2 | InChI=1S/C24H25N3OS.ClH/c1-2-6-20-18-25-24(17-19(20)5-1)28-15-4-10-26-11-13-27(14-12-26)22-7-3-8-23-21(22)9-16-29-23;/h1-3,5-9,16-18H,4,10-15H2;1H
